US07601855B2
Step 4 Acetic acid 3-(4hydroxy-phenyl)-8-methyl-4-oxo-chroman-7-yl ester
Acetic acid 3-(4-hydroxy-phenyl)-8-methyl-4-oxo-4H-chromen-7-yl ester (26.32 g), 10% Pd/Al2O3 (12.93 g, 50%) and ethyl acetate (EtOAc) (1.5 L) were added to a hydrogenation round bottom flask (2 L). The flask was placed on the hydrogenator, evacuated, purged with nitrogen gas (×5) and hydrogen gas (×5). The reaction was monitored by HPLC. 10% Pd/Al2O3(9 g, 35%) was added to the round bottom flask at 40 hours, indicated there was no product peak present, only starting material was present. HPLC at 62 hours indicated that the major peak was product peak with starting material peak being half height of product peak. 10% Pd/Al2O3 (5.69 g, 20%) was added to the round bottom flask to speed up reaction rate. Reaction was completed at 64 hours. The reaction mixture was filtered through celite to remove the Pd/Al2O3 catalyst, the celite was rinsed with EtOAc (1 L) to ensure majority of product was collected. The EtOAc was evaporated off on a rotary evaporator to give a yellow solid. The solid was re-crystallised in 95% EtOH (650 ml) and left in the freezer overnight Off-white crystals were collected by suction filtration.

reactant | Acetic acid 3-(4-hydroxy-phenyl)-8-methyl-4-oxo-4H-chromen-7-yl ester | 26.32 g | OC1=CC=C(C=C1)C1=COC2=C(C(=CC=C2C1=O)OC(C)=O)C | C18H14O5
solvent | ethyl acetate | 1.5 L | C(C)(=O)OCC | C4H8O2
product | Acetic acid 3-(4hydroxy-phenyl)-8-methyl-4-oxo-chroman-7-yl ester | OC1=CC=C(C=C1)C1COC2=C(C(=CC=C2C1=O)OC(C)=O)C | C18H16O5
